US04382090
Following the above procedure, 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine was reacted with S-methyl N-nitroisothiourea to yield N-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N'-nitroguanidine. The compound was purified by chromatography (silica-ethyl acetate/methanol), and melted at 104°-105.5° C. after recrystallization from ethyl acetate.

reactant | 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine | CN(C)CC=1SC=C(N1)CSCCN | C9H17N3S2
reactant | S-methyl N-nitroisothiourea | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
product | N-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N'-nitroguanidine | CN(C)CC=1SC=C(N1)CSCCNC(=N)N[N+](=O)[O-] | C10H18N6O2S2
